US06562978B1
1-tert-Butoxycarbonyl-4-(2-thiazolyloxy)piperidine
By a similar manner to Reference Example 44, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with 2-bromothiazole (0.59 mL, 6.5 mmol) to give the titled compound as pale yellow oily substance (189 mg, 13%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-bromothiazole | 6.5 mmol, 0.59 mL | BrC=1SC=CN1 | C3H2BrNS
product | 1-tert-Butoxycarbonyl-4-(2-thiazolyloxy)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1SC=CN1 | C13H20N2O3S
